US04182776
Ethyl p-{[2-(p-bromophenoxy)ethyl]amino}benzoate
A mixture of 26.4 g of ethyl p-aminobenzoate, 22.4 g of 2-bromoethyl p-bromophenyl ether and 80 ml of hexamethylphosphoramide is heated at 100°-110° C. for 20 hours. The mixture is chilled, diluted with 25 ml of water, chilled and filtered. The solid is washed with 100 ml of ethanol-water (1:1), with 25 ml of ethanol and with water to give tan crystals, mp 128°-133° C. Recrystallization from ethanol gives yellow crystals, mp 135.5°-137° C.

reactant | ethyl p-aminobenzoate | 26.4 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 2-bromoethyl p-bromophenyl ether | 22.4 g | BrC1=CC=C(C=C1)OCCBr | C8H8Br2O
reactant | hexamethylphosphoramide | 80 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | 25 ml | O | H2O
product | Ethyl p-{[2-(p-bromophenoxy)ethyl]amino}benzoate | BrC1=CC=C(OCCNC2=CC=C(C(=O)OCC)C=C2)C=C1 | C17H18BrNO3
